US07598391B2
6-{4-[3-(5-Chloro-thiazol-2-yl)-1-cyclohexyl-ureido]-piperidin-1-yl}-6-oxo-hexanoic acid
Prepared as described in general procedure (G) using 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea and adipic acid.

reactant | 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea | ClC1=CN=C(S1)NC(N(C1CCNCC1)[C@@H]1CC[C@H](CC1)C)=O | C16H25ClN4OS
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
product | 6-{4-[3-(5-Chloro-thiazol-2-yl)-1-cyclohexyl-ureido]-piperidin-1-yl}-6-oxo-hexanoic acid | ClC1=CN=C(S1)NC(N(C1CCCCC1)C1CCN(CC1)C(CCCCC(=O)O)=O)=O | C21H31ClN4O4S
